US07767675B2
Step 2. 6-(1-{2-[4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl]imidazo[1,2-b][1,2,4]triazin-7-yl}cyclopropyl)quinoline hydrochloride
tert-Butyl 4-{4-[7-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-b][1,2,4]triazin-2-yl]phenyl}-3,6-dihydropyridine-1(2H)-carboxylate (36.0 mg, 0.0661 mmol) was dissolved in 4M of hydrogen chloride in 1,4-dioxane (5.0 mL) and stirred at RT for 2 h. The volatiles were removed under vacuum and the residue was azeotropically washed with acetonitrile. The crude material was used in the next step. LCMS: (M+H)=445.0.

reactant | tert-Butyl 4-{4-[7-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-b][1,2,4]triazin-2-yl]phenyl}-3,6-dihydropyridine-1(2H)-carboxylate | 0.0661 mmol, 36.0 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=CN=C2N1N=C(C=N2)C2=CC=C(C=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C33H32N6O2
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 6-(1-{2-[4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl]imidazo[1,2-b][1,2,4]triazin-7-yl}cyclopropyl)quinoline hydrochloride | Cl.N1CCC(=CC1)C1=CC=C(C=C1)C=1C=NC=2N(N1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | InChI=1S/C28H24N6.ClH/c1-2-22-16-23(7-8-24(22)30-13-1)28(11-12-28)26-18-32-27-31-17-25(33-34(26)27)21-5-3-19(4-6-21)20-9-14-29-15-10-20;/h1-9,13,16-18,29H,10-12,14-15H2;1H
